US09388189B2
b) N-(6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)methanesulfon amide
N-(6-Bromo-1H-indol-4-yl)methanesulfonamide (580 mg, 1.79 mmol), bis(pinacolato)diboron (906 mg, 3.57 mmol), potassium acetate (525 mg, 5.36 mmol), bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (145 mg, 0.18 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (99 mg, 0.18 mmol) were suspended in dioxane (8 ml) and heated at 120° C. for 48 h. After evaporation of the solvent under reduced pressure, ethyl acetate (100 ml) is added to the residue and the precipitated salts are eliminated by filtration. The solvent is evaporated under reduced pressure and the residue was purified by flash chromatography (50% to 100%, hexane-ethyl acetate) to obtain 65 mg (10% yield) of the title compound. Purity: 95%

reactant | N-(6-Bromo-1H-indol-4-yl)methanesulfonamide | 1.79 mmol, 580 mg | BrC1=CC(=C2C=CNC2=C1)NS(=O)(=O)C | C9H9BrN2O2S
reactant | bis(pinacolato)diboron | 3.57 mmol, 906 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.36 mmol, 525 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 8 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.18 mmol, 99 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-(6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indol-4-yl)methanesulfon amide | 65 mg, 10% yield | CC1(OB(OC1(C)C)C1=CC(=C2C=CNC2=C1)NS(=O)(=O)C)C | C15H21BN2O4S
